US07629363B2
Step 3. Preparation of 5-(chloromethyl)-2-(methylthio)pyrimidine
To a cold solution of [2-(methylthio)pyrimidin-5-yl]methanol (0.7813 g, 5.0 mmol) in anhydrous dichloromethane (10 mL, 0° C.) was added triethylamine (0.836 mL, 8.2 mmol) followed by the addition of methanesulfonyl chloride (0.465 mL, 6.0 mmol). The reaction mixture stirred at 0° C. under a nitrogen atmosphere for 30 minutes then at room temperature for 3.5 hours. The reaction was quenched with sodium bicarbonate (5%, 100 mL)) and extracted with dichloromethane (50 mL). The organic extracts were concentrated and the residue was purified by flash chromatography (silica gel) using 15% ethyl acetate in hexane to afford the desired compound (0.720 g, 82%) as a white solid. 1H-NMR ((CD3OD, 400 MHz) δ 8.60 (s, 2H), 4.64 (s, 2H), 2.54 (s, 3H); ES-HRMS m/z 175.0106 (M+H C6H7N2ClS requires 175.0091).

reactant | [2-(methylthio)pyrimidin-5-yl]methanol | 5.0 mmol, 0.7813 g | CSC1=NC=C(C=N1)CO | C6H8N2OS
reactant | triethylamine | 8.2 mmol, 0.836 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.0 mmol, 0.465 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-2-(methylthio)pyrimidine | 0.720 g, 82% | ClCC=1C=NC(=NC1)SC | C6H7ClN2S
